US06872823B1
Methyl (2S)-2-(2,3,4-trifluoroanilino)propionate
(2S)-2-(2,3,4-trifluoroanilino)propionic acid (1.1 g; 99% ee) was dissolved in methanol (10 ml) and hydrochloric acid (5 mol/l; 1 ml) was added thereto at room temperature. The liquid reaction mixture was heated under reflux for 6 hours and then the solvent was evaporated. To the obtained residue was added chloroform (10 ml). Next, the organic layer was washed with a saturated aqueous solution of sodium chloride and water and dried over anhydrous magnesium sulfate. After evaporating the solvent, the obtained residue was subjected to silica gel column chromatography (ethyl acetate-normal hexane=1:4) to give the title compound (1.17 g) as an oily substance. The optical purity of the product was 99% ee. The 1H-NMR and IR spectral data of this product was identical with those of the compound obtained in Example 5.

reactant | (2S)-2-(2,3,4-trifluoroanilino)propionic acid | 1.1 g | FC1=C(N[C@H](C(=O)O)C)C=CC(=C1F)F | C9H8F3NO2
reactant | hydrochloric acid | 5 mol/l, 1 ml | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
product | Methyl (2S)-2-(2,3,4-trifluoroanilino)propionate | 1.17 g | FC1=C(N[C@H](C(=O)OC)C)C=CC(=C1F)F | C10H10F3NO2
